US07012066B2
Synthesis of Boc-4-cyclohexylproline
A solution of the commercially available Boc-4-phenylproline (750 mg) and 5% Rh on carbon (750 mg) in methanol (15 mL) was hydrogenated at 50 psi for 24 hours. The mixture was filtered and concentrated to give 730 mg of product.

reactant | Boc-4-phenylproline | 750 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CC(C1)C1=CC=CC=C1 | C16H21NO4
solvent | methanol | 15 mL | CO | CH4O
catalyst | Rh on carbon | 750 mg | [Rh] | Rh
product | Boc-4-cyclohexylproline | 730 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CC(C1)C1CCCCC1 | C16H27NO4
